US06881844B2
A solution of 2,2,2-trifluoro-1-(1-isopropyl-6-methylsulfanyl-1H-indol-3-yl)-ethanone (200 mg, 0.77 mmol) in tetrahydrofuran (1 mL) at 25° C. was treated with a 20% aqueous sodium hydroxide solution (2 mL). The mixture was heated at 100° C. for 24 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (40 mL) and ethyl acetate (40 mL). The solution was treated with a 1N aqueous hydrochloric acid solution. The layers were then shaken and separated. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 2/1 hexanes/ethyl acetate) afforded 1-isopropyl-6-methylsulfanyl-1H-indole-3-carboxylic acid (126 mg, 77%) as a white solid: mp 132-133° C.; EI-HRMS m/e calcd for C13H15NO2S (M+) 249.0823, found 249.0819.

reactant | 2,2,2-trifluoro-1-(1-isopropyl-6-methylsulfanyl-1H-indol-3-yl)-ethanone | 0.77 mmol, 200 mg | FC(C(=O)C1=CN(C2=CC(=CC=C12)SC)C(C)C)(F)F | C14H14F3NOS
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-isopropyl-6-methylsulfanyl-1H-indole-3-carboxylic acid | 126 mg, 77% | C(C)(C)N1C=C(C2=CC=C(C=C12)SC)C(=O)O | C13H15NO2S
